US06441006B2
3-(N-(tert-Butoxycarbonyl)-4-piperidinyloxy)pyridine
Under a nitrogen atmosphere, a cold (0-5° C.), stirring solution of N-(tert-butoxycarbonyl)-piperidin4-ol (800 mg, 3.98 mmol), 3-hydroxypyridine (378 mg, 3.98 mmol) and triphenylphosphine (1.148 g, 4.38 mmol) in dry tetrahydrofuran (20 mL) was treated drop-wise via syringe with diethyl azodicarboxylate (0.75 mL, 830 mg, 4.76 mmol). The mixture was allowed to stir and warm to ambient temperature over 16 h. The solvent was removed by rotary evaporation, and the crude product was purified by column chromatography over silica gel, eluting with hexane-ethyl acetate (9:1, v/v). Selected fractions were collected and concentrated to produce 800 mg (72.2%) of a thick syrup.

reactant | N-(tert-butoxycarbonyl)-piperidin4-ol | 3.98 mmol, 800 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 3-hydroxypyridine | 3.98 mmol, 378 mg | OC=1C=NC=CC1 | C5H5NO
reactant | triphenylphosphine | 4.38 mmol, 1.148 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.76 mmol, 0.75 mL, 830 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(N-(tert-Butoxycarbonyl)-4-piperidinyloxy)pyridine | 800 mg, 72.2% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=NC=CC1 | C15H22N2O3
